US07323604B2
Preparation of (E)-3-cyclohexylpent-2-enal:
To a solution of (E)-3-cyclohexylpent-2-enol (1.50 g, 8.91 mmol) in dichloromethane (45 mL), cooled to 0° C., was added Dess-Martin periodinane (9.7 g, 22.9 mmol). The resulting suspension was warmed to room temperature and stirred for approximately 2 h until the reaction was judged to be complete by TLC. The reaction was poured into 100 mL of saturated aqueous NaHCO3 containing Na2S2O3 (3 g). This mixture was stirred vigorously until both layers became clear. The aqueous layer was extracted with CH2Cl2 (2×) and the combined organic layers were dried over MgSO4, filtered and concentrated in vacuo. The residue was purified by flash chromatography (5% Et2O/pentane) to afford the title compound (1 g, 68% yield) as a colorless oil that was a 3:1 mixture of E:Z isomers. Major isomer: IR (film) 2927, 2746, 1668, 1622, 1450, 1189, 1124, 860 cm−1; 1H NMR (300 MHz, CDCl3) δ 10.04 (d, 1H, J=8.24 Hz, CHO), 5.83 (d, 1H, J=8.24 Hz, C═CH), 2.61 (q, 2H, J=7.4 Hz, CH2CH3), 2.07 (tt, 1H, J=2.6, 11.0 Hz, CH2CHCH2), 1.88-1.71 (m, 5H), 1.41-1.15 (m, 8H); 13C NMR (75 MHz, CDCl3) δ 191.8, 175.2, 124.9, 46.2, 31.9, 26.5, 26.3, 26.0, 25.9, 24.2, 15.4; HRMS (EI+) exact mass calculated for [M]+ (C11H18O) requires m/z 166.1358, found m/z 166.1355.

reactant | (E)-3-cyclohexylpent-2-enol | 8.91 mmol, 1.50 g | C1(CCCCC1)/C(=C/CO)/CC | C11H20O
reactant | Dess-Martin periodinane | 22.9 mmol, 9.7 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
reactant | Na2S2O3 | 3 g | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | dichloromethane | 45 mL | ClCCl | CH2Cl2
product | (E)-3-cyclohexylpent-2-enal | 1 g, 68% yield | C1(CCCCC1)/C(=C/C=O)/CC | C11H18O
